US07786132B2
(i) 4-(5-Benzylthiophen-2-yl)-5-bromo-2-chloro-pyrimidine
The title compound was prepared from 2-benzylthiophene and 5-bromo-2-chloropyrimidine in a manner analogous to Example 255, Step 1. MS (M+H)+ 365.

reactant | 2-benzylthiophene | C(C1=CC=CC=C1)C=1SC=CC1 | C11H10S
reactant | 5-bromo-2-chloropyrimidine | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
product | 4-(5-Benzylthiophen-2-yl)-5-bromo-2-chloro-pyrimidine | C(C1=CC=CC=C1)C1=CC=C(S1)C1=NC(=NC=C1Br)Cl | C15H10BrClN2S
